US06362177B1
A mixture of (R)-3-[{N-(2-amino-5-(trifluoromethyl)benzoyl)glycyl}amino]pyrrolidine (0.050 mmol), 4-vinylbenzyl chloride (9.9mg, 0.065 mmol), piperidinomethylpolystyrene (60 mg), acetonitrile (1.0 mL) and chloroform (0.30 mL) was stirred at 50° C. for 12 h. The reaction mixture was cooled, loaded onto Varian™ SCX column and washed with CH3OH (15 mL). Product was eluted using 2 N NH3 in CH3OH (5 mL) and concentrated to afford (R)-3-[{N-(2-amino-5-(trifluoromethyl)benzoyl)glycyl}amino]-1-(4-vinylbenzyl)pyrrolidine (Compound No. 1701) (19.6 mg, 88%): The purity was determined by RPLC/MS (92%); ESI/MS m/e 547.2 (M++H, C23H25ClF3N4O2).

reactant | (R)-3-[{N-(2-amino-5-(trifluoromethyl)benzoyl)glycyl}amino]pyrrolidine | 0.050 mmol | NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)C(F)(F)F | C14H17F3N4O2
reactant | 4-vinylbenzyl chloride | 0.065 mmol, 9.9mg | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | chloroform | 0.30 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-[{N-(2-amino-5-(trifluoromethyl)benzoyl)glycyl}amino]-1-(4-vinylbenzyl)pyrrolidine | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC=C(C=C2)C=C)C=C(C=C1)C(F)(F)F | C23H25F3N4O2
